US06881733B1
Alternate Synthesis of 1-benzyl-3,3-dimethyl-4-oxopiperidine
Benzylamine (214 g, 2 mol) is combined with formaldehyde (37% in water, 375 g, 4.5 mol) in ethanol (1 L) with occasional cooling. This biphasic mixture is added over a period of 90 minutes to a refluxing solution of 2-methyl-3-butanone (182 g, 2.11 mol) in anhydrous ethanol (1 L) and hydrochloric acid (209 g of 37% solution, 2.1 mol). The brownish solution is heated at reflux for an additional 18 hours. Then triethylamine (310 mL, 223.8 g, 2.21 mol) and formaldehyde (50 g, 36%, 0.6 mol) are added sequentially and the reaction mixture is heated at reflux for 24 hours. The reaction mixture is then cooled to 5° C. and treated with potassium hydroxide (117.6 g, 2.1 mol, dissolved in 200 mL of water). The reaction mixture is then extracted with heptane (2×500 mL) and methyl tert-butyl ether (2×500 mL). The organic extracts is then combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to provide the title compound, (339.36 g after 18% by volume of the above combined organic extracts was removed prior to concentration). This material was purified by chromatography on silica gel (methylene chloride/ethanol, 100:1) to provide purified title compound.

reactant | Benzylamine | 2 mol, 214 g | C(C1=CC=CC=C1)N | C7H9N
reactant | formaldehyde | 4.5 mol, 375 g | C=O | CH2O
reactant | 2-methyl-3-butanone | 2.11 mol, 182 g | CC(C)C(C)=O | C5H10O
reactant | hydrochloric acid | 2.1 mol, 209 g | Cl | ClH
reactant | triethylamine | 2.21 mol, 310 mL, 223.8 g | C(C)N(CC)CC | C6H15N
reactant | formaldehyde | 0.6 mol, 50 g | C=O | CH2O
reactant | potassium hydroxide | 2.1 mol, 200 mL, 117.6 g | [OH-].[K+]
solvent | ethanol | 1 L | C(C)O | C2H6O
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 1-benzyl-3,3-dimethyl-4-oxopiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
